US08252820B2
D. (2-Benzyloxy-6-fluorophenyl)-carbamic acid tert-butyl ester
To a solution of 2-benzyloxy-6-fluorophenylamine (217 mg, 1.0 mmol) in CH2Cl2 (10 mL) is added (Boc)2O (426 mg, 2.0 mmol) and DMAP (24 mg, 0.2 mmol) and the mixture is stirred at RT for 18 h. The solvent is removed under reduced pressure and the residue is purified by flash chromatography using hexane/ethyl acetate (5:1) as eluent to afford the product as a white solid.

reactant | 2-benzyloxy-6-fluorophenylamine | 1.0 mmol, 217 mg | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)F)N | C13H12FNO
reactant | (Boc)2O | 2.0 mmol, 426 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.2 mmol, 24 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2-Benzyloxy-6-fluorophenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC=C1F)OCC1=CC=CC=C1)=O | C18H20FNO3
